US07138425B2
c) 2-[4-(2-Methoxyethylamino)-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-(2-methoxyethylamino)phenyl)-5-phenylbenzoxazole (131 mg, 0.36 mmol) and 1,2,4-benzenetricarboxylic anhydride (70 mg, 0.36 mmol) the title compound was obtained (138 mg, 72%). 1H NMR (DMSO) δ 8.61(t, 1H), 8.42(dd, 1H), 8.31(s, 1H), 8.13(d, 1H), 8.08(m, 2H), 7.83(d, 1H), 7.53(m, 3H), 7.50(m, 3H), 7.41(t, 1H), 7.08(d, 1H), 3.69(m, 2H), 3.59(m, 2H), 3.35(s, 3H). MS 534 m/z (M+H)+.

reactant | 2-(5-amino-2-(2-methoxyethylamino)phenyl)-5-phenylbenzoxazole | 0.36 mmol, 131 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)NCCOC | C22H21N3O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.36 mmol, 70 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-(2-Methoxyethylamino)-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COCCNC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C31H23N3O6
